US07893056B2
A solution of phenylmethyl (2S)-2-methyl-1-piperazinecarboxylate (commercially available) (1 g, 4.3 mmol) and benzyloxyacetaldehyde (0.9 mL, 6.4 mmol) in DCM (50 mL) was stirred for 30 minutes, and then NaBH(OAc)3 (1.36 g, 6.4 mmol) was added. The reaction was stirred overnight before being quenched with 1 M NaOH. The phases were separated and the aqueous layer was extracted with DCM. The combined organics were washed with brine, dried over sodium sulfate and concentrated to a crude residue, which was purified by silica gel chromatography (5-95% EtOAc in hexane) yielding phenylmethyl (2S)-2-methyl-4-{2-[(phenylmethyl)oxy]ethyl}-1-piperazinecarboxylate (0.93 g, 58%). LCMS: (M+H)+: 369.1

reactant | phenylmethyl (2S)-2-methyl-1-piperazinecarboxylate | C[C@@H]1N(CCNC1)C(=O)OCC1=CC=CC=C1 | C13H18N2O2
reactant | benzyloxyacetaldehyde | 6.4 mmol, 0.9 mL | C(C1=CC=CC=C1)OCC=O | C9H10O2
reactant | NaBH(OAc)3 | 6.4 mmol, 1.36 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | phenylmethyl (2S)-2-methyl-4-{2-[(phenylmethyl)oxy]ethyl}-1-piperazinecarboxylate | 0.93 g, 58% | C[C@@H]1N(CCN(C1)CCOCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C22H28N2O3
